US07902203B2
2-[(1-adamantylmethyl)amino]nicotinic acid
The title compound was prepared according to the procedure of Example 3A substituting 2-chloronicotinic acid for ethyl 2-chloronicotinate and 1-adamantanemethylamine for 2-ethylbutylamine (0.185 g, 79%). MS (ESI+) m/z 287.1 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 1.74 (m, 12H), 2.00 (s, 3H), 3.31 (m, 2H), 6.60 (dd, J=7.35, 5.52 Hz, 1H), 7.96 (dd, J=5.33, 2.02 Hz, 1H), 8.26 (dd, J=7.35, 1.84 Hz, 1H).

reactant | ethyl 2-chloronicotinate | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 1-adamantanemethylamine | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | 2-ethylbutylamine | 0.185 g | C(C)C(CN)CC | C6H15N
product | 2-[(1-adamantylmethyl)amino]nicotinic acid | C12(CC3CC(CC(C1)C3)C2)CNC2=C(C(=O)O)C=CC=N2 | C17H22N2O2
